Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with a history of ___ disease, 
bilateral blindness, HTN, and bronchitis, discharged from ___ 
on ___ after a treatment for airway reactivity, presenting 
after a fall and head strike without LOC at home. 

The patient was sleeping in a recliner at home where she lives 
with her son. She was sleeping in her recliner and suddenly 
startled and noted by her son to have a jerking motion, and 
found to be sliding out of her chair. She eventually lowered 
onto her right knee, and struck her right forehead on the wood 
floor, son unable to cath her. The patient denies any LOC, 
headache, and per her son the patient was at her baseline mental 
status with normal behavior. She was noted to be ambulatory 
after this fall and headstrike, and used her walker to go to 
EMS. Her son notes that she had an episode of emesis in the 
ambulance.

She was recently admitted from ___ with unresolved cough 
and SOB despite outpatient treatment with doxycycline after 
being diagnosed with pneumonia at an OSH. She was treated for 
bronchitis vs. airway reactivity after infection with atrovent, 
fluticasone and albuterol. There was no evidence of pneumonia on 
CXR, and there was low suspicion for bacterial process. She was 
noted to have difficulty ambulating during the admission, and ___ 
recommended rehab, but the patient and family were only 
interested in ___ rehab where she had been before, but the 
patient was declined and went home with services. 

In the ED, initial vitals were: T 96.8 HR 85 BP 138/81 RR 16 96 
RA. ED exam notable for bibasilar crackles, stable pelvis and 
___ strength in UE and LUE. Labs were notable for H/H 11.2/33.7, 
PTT 72.5, INR 1.1, Na 130, cl 95 Cr 0.7. 

The patient underwent extensive imaging in the ED. CT C spine 
was negative for acute fracture or hemorrhage. CT Head was 
negative for acute intracranial pathology. Pelvis XR, B/L Knee 
XR, L ankle XR negative for fracture. Initial CXR negative for 
acute intrathoracic pathology. 

While in the ED, the patient began to have labored respiration 
requiring O2 by NC. Per son had similar jerking movements with 
startling. Concern for aspiration as labored respriations 
occurred after patient eating meds with applesauce. Repeat CXR 
was stable. She was treated with NS and nebulizers. Her 
pressures were in the low ___ while sleeping, but after 
nebulizer treatment and sitting up her pressures were in the 
100s/70s. VBG 7.41/43/49/28, and lactate 1.8

Overall the patient received 500 ml NS, ipatroprium bromide neb 
x3, albuterol neb x2, fluticasone IH x 2,  1 g acetaminophen x2, 
carbidopa levodopa (___) 1.5 tabs, carbidopa 25 mg and 
rasagiline. 

She was admitted given her frailty, respiratory distress and 
intermittent hypoxia in the ED. Vitals on transfer were 98.7 HR 
89 BP 113/89 BP 113/99 RR 19 95 RA.

On the floor, the patient denies any shortness of breath, chest 
pain, abdominal pain, head pain, headache. Breathing is overall 
comfortable. Does endorse being tired. She has no other acute 
concerns as this time. 
 
Review of systems:  
(+) Per HPI  

 
Past Medical History:
___ Disease
HTN
Bronchitis 
Bilateral blindness
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
===========================
PHYSICAL EXAM ON ADMISSION
===========================
Vital Signs:  98.1 103/56 HR 82 RR 18 97 RA
General: Alert, oriented, no acute distress, elderly woman 
sitting n chair  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated,
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Mildly decreased breath sounds at left base but no 
wheezes, rales, rhonchi, no increased work of breathing 
Abdomen: Soft, ___, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema, TEDS on
Skin: erythematous patches over right and left upper inner arums 
and underarms, as well as scattered over chest, per patient 
pruritis, appear in distribution of previous stickers
Neuro: ___ grossly intact, moving all extremities with 
purpose, bilateral hand tremors at rest, increased upper 
extremity rigidity with passive ROM

===========================
PHYSICAL EXAM ON DISCHARGE
===========================
Vital Signs:  T 97.9 BP 106/55 HR 83 R 20 SpO2 95 ra 
General: Alert, oriented, no acute distress, resting comfortably
HEENT: Sclera anicteric,  resolving ecchymosis over forehead, 
MMM, EOMI, JVP not elevated,
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Mildly decreased breath sounds at left lung base, 
otherwise clear to auscultation without wheezes appreciated 
Abdomen: Soft, ___, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no edema
Neuro: alert and oriented, moving all extremities with purpose, 
bilateral hand tremors
 
Pertinent Results:
====================
LABS ON ADMISSION
====================
___ 10:20PM BLOOD ___ 
___ Plt ___
___ 10:20PM BLOOD ___ 
___ Im ___ 
___
___ 10:20PM BLOOD ___ ___
___ 10:20PM BLOOD ___ 
___
___ 06:15PM BLOOD ___ ___
___ 06:15PM BLOOD ___ 
___
___ 06:15PM BLOOD ___
___ 06:15PM BLOOD ___
___ 06:15PM BLOOD ___
___ 05:19AM BLOOD ___ 
___ Base ___
___ 05:19AM BLOOD ___

====================
INTERVAL LABS
====================
___ 12:49PM URINE ___
___ 12:49PM URINE ___
___ 07:40AM BLOOD ___ 
___
___ 07:40AM BLOOD ___

====================
LABS ON DISCHARGE
====================
___ 07:31AM BLOOD ___ 
___ Plt ___
___ 07:31AM BLOOD ___ 
___
___ 07:31AM BLOOD ___

====================
MICROBIOLOGY
====================
None this admission

====================
IMAGING/STUDIES
====================
ECGStudy Date of ___  11:41:42 AM 
Clinical indication for EKG: R00.0 - Tachycardia 

Sinus tachycardia. First degree ___ block. Early precordial R 
wave
progression. Low voltage iin the precordial leads. Compared to 
the previoustracing of ___ tachcyardia is now present. Low 
voltage in the precordialleads is now present.

CT C Spine WO Contrast ___
1. No acute fracture identified. 
2. Severe cervical spondylosis with mild anterolisthesis of C2 
on C3 and C7 on 
T1.  Mild to moderate central canal narrowing without ___ 
stenosis. 
3. Anterior compression deformity of the T3 vertebral body is 
unchanged. 

CT Head ___
No acute intracranial abnormality. 

ANKLE (AP, MORTISE & LAT) LEFT  ___ 
No fracture.  Marked generalized demineralization.
 
PELVIS (AP ONLY)  ___
No fracture identified.  Marked generalized demineralization

KNEE (AP, LAT AND OBLIQUE) BILATERAL  ___  
No fracture.  Prominent osteoporosis 

CHEST (SINGLE VIEW)  ___
No acute intrathoracic abnormality.  Consider dedicated spine 
imaging if there is clinical concern for thoracic spinal 
fracture.
 
CHEST (PORTABLE AP) ___
Overall stable examination of the chest.

VIDEO OROPHARYNGEAL SWALLOW  ___spiration.

CHEST (PA & LAT) ___
The aorta is markedly unfolded and tortuous.  Heart remains 
upper limits of normal in size.  There is bilateral interstitial 
prominence which is not significantly changed since ___ and likely reflects underlying interstitial lung disease 
rather than interstitial edema.  The patient's mandible obscures 
the apices.  No pleural effusions or pneumothorax.  No focal 
airspace consolidation to suggest pneumonia.

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with a history of 
___ disease, bilateral blindness, HTN, presenting after 
a fall and head strike without LOC at home, admitted with 
respiratory distress and hypoxia in the ED with rapid 
resolution. 

# Mechanical Fall:
Patient discharged on the same day as re presentation to the ED. 
On previous admission, patient noted by ___ to be at high fall 
risk and recommended acute rehab however son declined as pt not 
accepted to first choice rehab. Patient admitted after fall from 
chair, most likely mechanical in etiology, as he patient was 
startled and slipped to the ground and in the setting of her 
weakness and ___ was unable to stop he fall. There was 
no loss of consciousness to suggest syncope as the etiology.  
Overall picture not consistent with seizure activity, as there 
was no post ictal period, also no elevation in lactate noted on 
labs, and the patient ambulated after the event with the use of 
a walker. Imaging including CT C spine, CT Head, CXR, Pelvis XR, 
bilateral knee XR and L ankle XR without fracture or acute 
pathology. There were no focal neuro signs on exam. ___ was 
consulted who recommended disposition to rehab. She was 
discharged to ___.

# Respiratory distress/Aspiration
While in the ED the patient developed respiratory 
distress/labored respirations requiring NC. The etiology was 
concerning for aspiration as she had been eating her medications 
with applesauce prior to the event. A repeat CXR in the ED was 
negative for aspiration, but may have been premature to 
visualize any changes. The differential also included airway 
reactivity, given the recent admission for reactive airways. She 
was quickly weaned to room air with nebulizer treatments. Given 
the concern for mild respiratory distress a third CXR was done 
on the floor, again without any signs of infiltrate or acute 
pathology. There was evidence of mild volume overload and pt 
received 10mg IV lasix. On the previous admission the patient 
was evaluated by SLP who recommended a diet of ground solids and 
thin liquids. SLP was re consulted this admission, and the 
patient underwent a video swallow due to concerns for bedside 
aspiration, which revealed penetration and trace aspiration, and 
the patient was initiated on a diet of ground solids and nectar 
thickened liquids. She was also seen by nutrition who 
recommended supplementation with ensure plus TID. She was 
continued on atrovent and albuterol nebulizer treatmens, and 
fluticasone inhaler. Of note, albuterol was used cautiously as 
caused pt to become tachycardiac.

# Hyponatremia - RESOLVED
Patient with new mild hyponatremia to 130, with concomitant 
hypochloremia. Likely secondary to hypovolemia given improvement 
with IVF. 
 
# Coagulopathy Elevated PTT - RESOLVED
Patient with newly elevated PTT on admission. On recent 
admission patient appears to have been on heparin 5000 U TID, 
though patient is of normal BMI, likely the etioloy of the 
elevated PTT. No concomitant elevation in INR, no 
thrombocytopenia to suggest DIC. No history of elevated PTT in 
the past to suggest the presence of an acquired or intrinsic 
inhibitor. Resolved with holding subC heparin. The patient was 
restarted on subC heparin for VTE prophylaxis with BID dosing 
without elevation in PTT

CHRONIC ISSUES
===============
# ___ disease: Stable. The patient was continued on home 
rasagiline, ___ and carbidopa dosing.

# Hypertension: Stable. The patient continued home metoprolol 
succinate 12.5 mg daily.

# Hyperlipidemia: Stable. The patient continued home 
atorvastatin.

=====================
TRANSITIONAL ISSUES
=====================
- Ensure follow up with PCP
- SLP recommendations: PO diet of nectar thick liquids, ground 
solids, meds whole with applesauce
- Aspiration precautions: fully upright for all POs, single cup 
sips, 1:1 assist for all POS, TID oral care
- Sarna and Hydrocortisone 2.5% cream for skin pruritis 
- Recommend home ___ for medication administration after 
discharge from ___

FULL CODE
CONTACT: ___ (Son, HCP)  ___
 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. ___ 1.5 TAB PO TID 
3. Lodosyn (carbidopa) 25 mg oral DAILY 
4. melatonin 3 mg oral QHS 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
9. Rasagiline 0.5 mg PO DAILY 
10. Ipratropium Bromide Neb 1 NEB IH Q6H 
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
12. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing, 
dyspnea, cough 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing, dyspnea, 
cough 
2. Atorvastatin 20 mg PO QPM 
3. ___ 1.5 TAB PO TID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Ipratropium Bromide Neb 1 NEB IH Q6H 
6. Lodosyn (carbidopa) 25 mg oral DAILY 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
11. Rasagiline 0.5 mg PO DAILY 
12. Sarna Lotion 1 Appl TP QID:PRN puritis 
RX ___ [Sarna ___ 0.5 %-0.5 % Apply thin 
film to affected skin As needed Disp #*222 Milliliter Milliliter 
Refills:*0
13. melatonin 3 mg oral QHS 
14. Hydrocortisone Cream 2.5% 1 Appl TP TID PRN ITCH 
RX *hydrocortisone 2.5 % Apply thin film to the affected area up 
to three times daily Disp #*30 Gram Gram Refills:*0
15. Guaifenesin ER 600 mg PO Q12H cough 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary diagnosis: 
=================== 
Aspiration 
Mechanical Fall 
___ disease 
Airway reactivity 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you during your stay at ___. You 
were admitted to the hospital after a fall at home. Imaging of 
your head, neck, chest, pelvis, knees and ankle did not reveal 
any signs of fracture or bleeding. In the ED you had some 
shortness of breath and were admitted to the hospital. Your 
breathing improved rapidly with breathing treatments, and you 
were feeling much better by discharge. You had chest x rays 
which did not show any infection or fluid in your lungs. 

You had a video swallow study done, and the speech and language 
pathology experts recommended that you continue on a diet of 
ground foods and nectar thickened liquids to help prevent 
inhaling food when you eat (which can predispose you to 
infection)

You were evaluated by physical therapy and there were signs that 
you were deconditioned and had difficulty moving. They 
recommended that you go to a rehab facility.

Your updated medication list is included in your discharge 
paperwork. You will need to follow up with your primary care 
doctor within 1 week of discharge.

We Wish You The Best!
- Your ___ Care Team
 
Followup Instructions:
___